US08242104B2
To a solution of 9-bromo-N-formyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (350 mg, 1.04 mmol) in HOAc (10 ml) was added (2-chlorophenyl)hydrazine hydrochloride (557 mg, 3.13 mmol) in one portion. The resulting mixture was stirred at 80° C. for 4 h. The reaction mixture was cooled to room temperature and concentrated. The residue was dissolved in MeOH and purified by chromatography on silica gel (Hexanes: EtOAc=10:1-1:1) to give 9-bromo-2-(1-(2-chlorophenyl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (300 mg, 65%). LCMS (ESI): m/z 443.7 (M+H+)

reactant | 9-bromo-N-formyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 1.04 mmol, 350 mg | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)NC=O)C=C1 | C13H10BrN3O3
reactant | (2-chlorophenyl)hydrazine hydrochloride | 3.13 mmol, 557 mg | Cl.ClC1=C(C=CC=C1)NN
solvent | HOAc | 10 ml | CC(=O)O | C2H4O2
product | 9-bromo-2-(1-(2-chlorophenyl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 300 mg, 65% | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C3=NC=NN3C3=C(C=CC=C3)Cl)C=C1 | C19H13BrClN5O
